US07608629B2
Preparation 56. 2-Chloro-6-(1-cyclopropylmethyl-piperidin-4-yloxy)-pyridine
Add NaH (60% dispersion in oil, 130 mg, 3.25 mmol) to a solution of 1-cyclopropylmethyl-piperidin-4-ol (preparation 11, 458 mg, 2.95 mmol) in DMF (8 mL) and stir for 20 min. Then add 2,6-dichloropyridine to the mixture and heat at 120° C. overnight. Quench the reaction with saturated NaHCO3, extract with methylene dichloride three times. Combine the organic layers, wash with saturated NaCl solution, dry over Na2SO4, filter and concentrate to give a residue. Chromatography (silica gel) eluting with 4% 2M NH3-methanol in methylene dichloride provides 480 mg (61%) of the title compound: mass spectrum (ion spray): m/z=267.2 (M+1); 1H NMR (CDCl3, ppm): 7.39 (t, 1H), 6.75 (d, 1H), 6.52 (d, 1H), 4.96 (m, 1H), 2.75 (m, 2H), 2.30 (m, 2H), 2.19 (d, 2H), 1.97 (m, 2H), 1.75 (m, 2H), 0.76 (m, 1H), 0.43 (m, 2H), 0.00 (m, 2H).

reactant | NaH | 3.25 mmol, 130 mg | [H-].[Na+]
reactant | 1-cyclopropylmethyl-piperidin-4-ol | 2.95 mmol, 458 mg | C1(CC1)CN1CCC(CC1)O | C9H17NO
reactant | 2,6-dichloropyridine | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-6-(1-cyclopropylmethyl-piperidin-4-yloxy)-pyridine | 480 mg, 61% | ClC1=NC(=CC=C1)OC1CCN(CC1)CC1CC1 | C14H19ClN2O
